US07034039B2
2-(4-Butoxy-3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl)-4-methyl-1,3-thiazole-5-carboxylic acid (0.16 g, 0.3 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml). The solution was stirred at room temperature for 1 h. The reaction mixture was concentrated under reduced pressure, and the residue was crystallized from ethyl acetate to give 2-[3-(aminomethyl)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-4-methyl-1,3-thiazole-5-carboxylic acid hydrochloride (0.13 g, 92.9%) as crystals.

reactant | 2-(4-Butoxy-3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl)-4-methyl-1,3-thiazole-5-carboxylic acid | 0.3 mmol, 0.16 g | C(CCC)OC1=C(N(C(C2=CC=C(C=C12)C=1SC(=C(N1)C)C(=O)O)=O)CC(C)C)CNC(=O)OC(C)(C)C | C28H37N3O6S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 2-[3-(aminomethyl)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-4-methyl-1,3-thiazole-5-carboxylic acid hydrochloride | 0.13 g, 92.9% | Cl.NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C=1SC(=C(N1)C)C(=O)O)=O)CC(C)C | InChI=1S/C23H29N3O4S.ClH/c1-5-6-9-30-19-17-10-15(21-25-14(4)20(31-21)23(28)29)7-8-16(17)22(27)26(12-13(2)3)18(19)11-24;/h7-8,10,13H,5-6,9,11-12,24H2,1-4H3,(H,28,29);1H
